US08168794B2
To a solution of (3aR,7aS)-tert-butyl 5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate in EtOH and EtOAc (1:1, 0.15 M) was added Pd/C (10% by weight) and the reaction was stirred under a hydrogen balloon for 15 h. The solution was filtered through a pad of Celite, and the filtrate was concentrated to yield (3aR,7aS)-tert-butyl 5-(3-aminopyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate as a clear oil in >95% yield. LCMS (m/z): 335.0 (MH+), Rt=1.68 min.

reactant | (3aR,7aS)-tert-butyl 5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate | [N+](=O)([O-])C=1C=NC=CC1N1C[C@@H]2[C@H](CC1)OC(N2C(=O)OC(C)(C)C)=O | C16H20N4O6
solvent | EtOH | CCO | C2H6O
solvent | EtOAc | 0.15 M | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | (3aR,7aS)-tert-butyl 5-(3-aminopyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate | >95% yield | NC=1C=NC=CC1N1C[C@@H]2[C@H](CC1)OC(N2C(=O)OC(C)(C)C)=O | C16H22N4O4
